US07078537B2
The procedure given in Example 2 except for the formation of salts was followed using 3-bromo-1-(tert-butoxycarbonyl)amino-1-phenyl propane and phenyl-piperidin-4-yl-methanol as reactants, instead of d-1-bromo-2-(tert-butoxycarbonyl)amino-3-phenyl propane and hexamethyleneimine to give [1-(3-Amino-3-phenyl-propyl)-piperidin-4-yl]-phenyl-methanol.

reactant | 3-bromo-1-(tert-butoxycarbonyl)amino-1-phenyl propane | BrCCC(C1=CC=CC=C1)NC(=O)OC(C)(C)C | C14H20BrNO2
reactant | phenyl-piperidin-4-yl-methanol | C1(=CC=CC=C1)C(O)C1CCNCC1 | C12H17NO
product | [1-(3-Amino-3-phenyl-propyl)-piperidin-4-yl]-phenyl-methanol | NC(CCN1CCC(CC1)C(O)C1=CC=CC=C1)C1=CC=CC=C1 | C21H28N2O
